US08791132B2
8,10-Dimethyl-2,3,5,6,7,11c-hexahydro-1H-indolizino[7,8-b]indole (700 mg, 2.92 mmol) in DMF (20 mL) was stirred at 0° C. for 5 min. NaH (580 mg, 14.60 mmol) was added slowly at 0° C. After 10 min. stirring, 4-(oxiran-2-yl)pyridine (710 mg, 5.87 mmol) was added and the reaction mixture was stirred at RT for 15 h. The reaction mixture was poured in ice-cold water (150 mL) and extracted with EtOAc (3×200 mL). The combined organic layer was washed with water (6×300 mL), dried over anhydrous sodium sulfate and concentrated to obtain semi-solid residue that was washed with hexane (3×20 mL). The residue was suspended in ether (30 mL) stirred for 1 h. The suspension was filtered to give 200 mg of 2-(8,10-dimethyl-2,3,5,6-tetrahydro-1H-indolizino[7,8-b]indol-7(11cH)-yl)-1-(pyridin-4-yl)ethanol. 1H NMR (CD3OD, HCl salt) δ (ppm): 8.79 (d, 2H), 8.03 (d, 2H), 7.13 (s, 1H), 6.82 (s, 1H), 5.22 (dd, 1H),5.01 (t, 1H), 4.67 (dd, 1H), 4.48 (dd, 1H), 4.79 (m, 1H), 3.64 (t, 2H), 3.4 (m, 3H), 2.9 (m, 1H), 2.73 (s, 3H), 2.37 (s, 3H), 2.22 (m, 3H). Separation by chiral HPLC provided diastereomers II-125a-b.

reactant | 8,10-Dimethyl-2,3,5,6,7,11c-hexahydro-1H-indolizino[7,8-b]indole | 2.92 mmol, 700 mg | CC1=CC(=CC=2C3=C(NC12)CCN1CCCC13)C | C16H20N2
reactant | NaH | 14.60 mmol, 580 mg | [H-].[Na+]
reactant | 4-(oxiran-2-yl)pyridine | 5.87 mmol, 710 mg | O1C(C1)C1=CC=NC=C1 | C7H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(8,10-dimethyl-2,3,5,6-tetrahydro-1H-indolizino[7,8-b]indol-7(11cH)-yl)-1-(pyridin-4-yl)ethanol | 200 mg | CC1=CC(=CC=2C3=C(N(C12)CC(O)C1=CC=NC=C1)CCN1CCCC13)C | C23H27N3O
